US03985758
In 3 ml. of isopropyl alcohol were dissolved 1.07 g. of acetoacetic acid β-(N-methyl-N-p-methylbenzylamino)ethyl ester, 0.466 g, of β-aminocrotonic acid methyl ester, and 0.705 g. of m-trifluoromethyl benzaldehyde and the solution was refluxed for 6 hours. The reaction mixture was concentrated, subjected to a silica gel column chromatography (diameter 4 cm, height 15 cm.), and then the effluents containing the aimed product obtained were collected and concentrated. The residue thus obtained was dissolved in acetone and after adjusting the solution to pH 1-2 with an ethanol solution saturated with hydrogen chloride, the solution was concentrated. Then, by crystallizing the residue formed with acetone, 0.8 g. of 2,6-dimethyl-4-(3'-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-β-(N-methyl-N-p-methylbenzylamino)ethyl ester hydrochloride was obtained.

reactant | acetoacetic acid β-(N-methyl-N-p-methylbenzylamino)ethyl ester | CN(CC1=CC=C(C=C1)C)CCOC(CC(=O)C)=O | C15H21NO3
reactant | β-aminocrotonic acid methyl ester | COC(\C=C(\C)/N)=O | C5H9NO2
reactant | m-trifluoromethyl benzaldehyde | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | hydrogen chloride | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
solvent | ethanol | C(C)O | C2H6O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2,6-dimethyl-4-(3'-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-β-(N-methyl-N-p-methylbenzylamino)ethyl ester hydrochloride | Cl.CN(CC1=CC=C(C=C1)C)CCOC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=CC(=CC=C1)C(F)(F)F | InChI=1S/C28H31F3N2O4.ClH/c1-17-9-11-20(12-10-17)16-33(4)13-14-37-27(35)24-19(3)32-18(2)23(26(34)36-5)25(24)21-7-6-8-22(15-21)28(29,30)31;/h6-12,15,25,32H,13-14,16H2,1-5H3;1H
